US06174881B1
A solution of 9.1 g of 2-amino-7-chloro-5-(2-chlorophenyl)-3H-1,4-benzodiazepine (K. Meguro, H. Tawada & Y. Kuwada, Yakugaku Zasshi, 1973, 93, 1253-1262) and 11.4 g of 1,3-dichloroacetone in 195 ml of dioxan was treated with 24.9 g of anhydrous potassium carbonate and stirred at 98° C. for 22 h. After cooling the inorganic salts were filtered off, the filtrate was treated with 0.75 g of p-toluenesulphonic acid and stirred at 98° C. for 2.5 h. 60 ml of 1N aqueous sodium hydroxide solution and 2.0 g of active charcoal were added to this solution and the mixture was stirred at 80° C. for 2.5 h. After cooling the mixture was filtered and the filtrate was concentrated in a vacuum. The residue was taken up in 300 ml of dichloromethane and the solution was shaken with 200 ml of 6N aqueous hydrochloric acid. The crystals which thereby separated were filtered off (4.2 g) and the filtrate was extracted a further three times with 200 ml of 6N aqueous hydrochloric acid each time The combined aqueous extracts were made weakly basic (pH 8 to 9) with aqueous sodium hydroxide solution and the precipitate was filtered off. The filter cake together with the crystals (4.2 g) filtered off earlier were taken up in chloroform and in 2N aqueous sodium hydroxide solution, the mixture was filtered clear and the aqueous phase is extracted a further twice with chloroform. The chloroform extracts were dried over sodium sulphate, concentrated in a vacuum to 100 ml and chromatographed over 210 g of silica gel. A small amount of byproduct was eluted with chloroform. The desired product was eluted with chloroform containing 1 to 4% ethanol and was crystallized from ethyl acetate. There were obtained 3.8 g of 8-chloro-6-(2-chlorophenyl)-4H-imidazo-[1,2-a][1,4]benzodiazepine-2-methanol of m.p. 174-175° C., which was converted into the hydrochloride, m.p. 257-259° C.

reactant | 2-amino-7-chloro-5-(2-chlorophenyl)-3H-1,4-benzodiazepine | 9.1 g | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C15H11Cl2N3
reactant | 1,3-dichloroacetone | 11.4 g | ClCC(=O)CCl | C3H4Cl2O
reactant | potassium carbonate | 24.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 195 ml | O1CCOCC1 | C4H8O2
product | 8-chloro-6-(2-chlorophenyl)-4H-imidazo-[1,2-a][1,4]benzodiazepine-2-methanol | 3.8 g | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)CO)C3=C(C=CC=C3)Cl)C1 | C18H13Cl2N3O
